* Simulation for output resistance

.lib ac1

* IOUT	out 0 	DC 0 AC 1
* VDD	vdd 0	'half'
* VSS	0 vss	'half'
 
* X1	s 0 out vdd vss	opamp
* RF	out s	valrf
* CF	out s	valcf

 
* .TEMP 25
* .PARAM half='psvoltage/2' valrf=1T valcf=10m valrl=20k
* .AC DEC 100 0.1 10G
* .MEAS AC ro FIND V(out) AT=0.1


IOUT	out 0 	DC 0 AC 1
VDD	vdd 0	'half'
VSS	0 vss	'half'

X1	s 0 out vdd vss	opamp
R1 s gnd valr1
R2 out s valr2

 
.TEMP 25
.PARAM half='psvoltage/2' valr1=10k valr2=10k valrl=20k
.AC DEC 100 0.1 10G
.MEAS AC ro FIND V(out) AT=0.1

* PARAMS for rosim to ro
.MEAS AC r1 PARAM=valr1
.MEAS AC r2 PARAM=valr2
.MEAS AC beta PARAM='r1/(r1+r2)'
.MEAS AC rl PARAM=valrl

.endl ac1
