* Input refered noise simulation

.lib ac3

VIN	inp 0 	dc 0
VDD	vdd 0	'half'
VSS	0 vss	'half'
 
X1      s inp out vdd vss       opamp
R1      s 0                     nores valr1
R2      out s                   nores valr2
 
.MODEL nores R noise=0
.PARAM half='psvoltage/2' valr1=10k valr2=10k
.AC DEC 100 0.1 1MEG
.NOISE V(out) VIN 100
.MEAS AC input_noise INTEG par('inoise(m)*inoise(m)') FROM=0.1 TO=1meg
.MEAS AC irn param='sqrt(input_noise)'

.endl ac3
