
**********************************
* Simulation for DC gain, phase margin
**********************************
.lib ac1

VIN	inp 0 	dc 0 ac 1
VDD	vdd 0	'half'
VSS	0 vss	'half'
 
X1	s inp out vdd vss	opamp
RL	out 0			valrl
CL  out 0           step
RF	out s			valrf
CF	s 0			valcf
 
.PARAM half='psvoltage/2' valrl=5k valcl=0.5n valrf=1T valcf=10m
.AC DEC 10 0.1 1T sweep step POI 3 '0.9*valcl' 'valcl' 'valcl*1.1'
.PRINT VDB(out) VP(out)

* DC gain
.MEAS AC dcgain_db FIND VDB(out) AT=0.1

* Gain bandwidth product
.meas AC ugf when vdb(out)=0.0

* Phase margin
.meas AC pm min 'vp(out)+180' from=0.001 to=ugf

.endl ac1

**********************************
* Simulation for bandwidth
**********************************
.lib ac2

VIN	in 0 	dc 0 ac 1
VDD	vdd 0	'half'
VSS	0 vss	'half'
 
X1 inm inp out vdd vss opamp
R1 in  inm valr1
R2 out inm valr2
R3 in  inp valr3
R4 inp 0   valr4
RL out 0   valrl
CL out 0   valcl
 
.PARAM half='psvoltage/2'
+ valr1=10k valr2=90k valr3=10k valr4=10k 
+ valrl=5k valcl=0.5n
.AC DEC 10 0.1 1T
.PRINT VDB(out) VP(out)

* DC gain
.MEAS AC dcgain FIND VM(out) AT=0.1
.MEAS AC dcgain_db FIND VDB(out) AT=0.1

* bandwidth
.meas ac bandwidth when vdb(out)='dcgain_db-3'

.endl ac2

**********************************
* DC simulation for power dissipation, offset voltage
**********************************
.lib dc1

VIN	in 0 	dc 0
VDD	vdd 0	'half'
VSS	0 vss	'half'
 
X1 inm inp out vdd vss opamp
R1 in  inm valr1
R2 out inm valr2
R3 in  inp valr3
R4 inp 0   valr4
RL out 0   valrl
CL out 0   valcl
 
.PARAM half='psvoltage/2'
+ valr1=10k valr2=90k valr3=10k valr4=10k 
+ valrl=5k valcl=0.5n
.DC VIN -10m 10m 1m

* power
* .MEAS DC ivdd FIND I(VDD) AT 0
* .MEAS DC ivss FIND I(VSS) AT 0
.meas DC ivdd find isub(x1.vdd) at 0
.meas DC ivss find isub(x1.vss) at 0
.MEAS DC ib   PARAM='max(abs(ivdd),abs(ivss))'
.MEAS DC pdis PARAM='ib*2*half'

* offset voltage
.MEAS DC offset find V(out) at 0

.endl dc1

**********************************
* DC simulation for input voltage range
**********************************
.lib dc2

VIN	in 0 	dc 0
EIN2 in2 0 in 0 -1
VDD	vdd 0	'half'
VSS	0 vss	'half'

* Positive side
X1 inm inp out vdd vss opamp
R1 in  inm valr1
R2 out inm valr2
R3 in  inp valr3
R4 inp 0   valr4
RL out 0   valrl
CL out 0   valcl

* Negative side
X12 inm2 inp2 out2 vdd vss opamp
R12 in2  inm2 valr1
R22 out2 inm2 valr2
R32 in2  inp2 valr3
R42 inp2 0   valr4
RL2 out2 0   valrl
CL2 out2 0   valcl

* offset
Xos inmos inpos os vdd vss opamp
R1os 0  inmos valr1
R2os os inmos valr2
R3os 0  inpos valr3
R4os inpos 0   valr4
RLos os 0   valrl
CLos os 0   valcl

.PARAM half='psvoltage/2'
+ valr1=10k valr2=90k valr3=10k valr4=10k 
+ valrl=5k valcl=0.5n
.DC VIN 0 'half' 10m

.PRINT V(out,os) V(out2,os)

* input voltage range
.meas dc vipos when par'abs(1 - abs(V(out,os)/(4*V(in))))' = 0.05 rise=1
.meas dc vinega when par'abs(1 - abs(V(out2,os)/(4*V(in2))))' = 0.05 rise=1
.meas dc inrng param='min(vipos, vinega)'

.endl dc2

**********************************
* Transient simulation for Slewrate
**********************************
.lib tran1

VDD	vdd 0	'half'
VSS	0 vss	'half'
 
* For rise edge slewrate
X1 inm inp out vdd vss opamp
R1 in  inm valr1
R2 out inm valr2
R3 in  inp valr3
R4 inp 0   valr4
RL out 0   valrl
CL out 0   valcl
 
* For fall edge slewrate
X12 inm2 inp2 out2 vdd vss opamp
R12 in2  inm2 valr1
R22 out2 inm2 valr2
R32 in2  inp2 valr3
R42 inp2 0   valr4
RL2 out2 0   valrl
CL2 out2 0   valcl
 
* Offset voltage
* X13 inm3 inp3 out3 vdd vss opamp
* R13 in3  inm3 valr1
* R23 out3 inm3 valr2
* R33 in3  inp3 valr3
* R43 inp3 0   valr4
* RL3 out3 0   valrl
* CL3 out3 0   valcl

* Stimulus
VIN1 in 0 PWL (
+'td' '-vp'
+'td+tr' 'vp'
+'td+tr+tp' 'vp'
+'td+tr+tp+tf' 'vp/2'
+'td+tr+tp+tf+tp' 'vp/2' )
 
E1	0 in2 in 0	1    $ inverted input for fall edge 

.PARAM half='psvoltage/2'
+ valr1=10k valr2=90k valr3=10k valr4=10k 
+ valrl=5k valcl=0.5n
+ vp=100m         $ pulse amplitude, use your simulated value of maximum input voltage
+ td=100n         $ pulse delay
+ tr=0.5n         $ pulse rise time
+ tf=0.5n   	  $ pulse fall time
+ tp=500u         $ pulse width
 
* Analysis
* .TRAN 10p 1m    $ transient simulation for 400us with 10ps time step
.TRAN 50n 1m    $ transient simulation for 400us with 10ps time step
* .print v(in) v(out) v(in2) v(out2)
 
* Measurements for rise edge (remove offset voltage from the output voltage)
* .MEAS TRAN vo1min  FIND  V(out,out3) AT=0
* .MEAS TRAN vo1max  FIND  V(out,out3) AT=200u
* .MEAS TRAN vo1f    FIND  V(out,out3) AT=400u
* .MEAS TRAN vi1f    FIND  V(in1)   AT=400u
* .MEAS TRAN srr1 DERIV V(out,out3) WHEN V(out,out3)='0.9*vo1min'
* .MEAS TRAN srr2 DERIV V(out,out3) WHEN V(out,out3)=0
* .MEAS TRAN srr3 DERIV V(out,out3) WHEN V(out,out3)='0.9*vo1max'
* .MEAS TRAN srr  PARAM='(srr1+srr2+srr3)/3'
.meas tran t11 when v(out) = -360m fall=1
.meas tran t21 when v(out) = 360m fall=1
.meas tran srr param='0.72/(t21 - t11)'
 
* Measurements for fall edge (remove offset voltage from the output voltage)
* .MEAS TRAN vo2max  FIND V(out2,out3)  AT=0
* .MEAS TRAN vo2min  FIND V(out2,out3)  AT=200u
* .MEAS TRAN vo2f    FIND V(out2,out3)  AT=400u
* .MEAS TRAN vi2f    FIND V(in2)    AT=400u
* .MEAS TRAN srf1 DERIV V(out2,out3) WHEN V(out2,out3)='0.9*vo2max'
* .MEAS TRAN srf2 DERIV V(out2,out3) WHEN V(out2,out3)=0
* .MEAS TRAN srf3 DERIV V(out2,out3) WHEN V(out2,out3)='0.9*vo2min'
* .MEAS TRAN srf  PARAM='(srf1+srf2+srf3)/3'
.meas tran t12 when v(out2) = -360m rise=1
.meas tran t22 when v(out2) = 360m rise=1
.meas tran srf param='0.72/(t22 - t12)'
 
* Choose the smaller value as slewrate measurement result
.MEAS TRAN sr   PARAM='min(abs(srr),abs(srf))'

.PRINT TRAN V(out) V(out2)

.endl tran1


**********************************
* Transient simulation for THD
**********************************
.lib tran2

VIN	in 0 	SIN 0 1m 1k 0
VDD	vdd 0	half
VSS	0 vss	half

X1 inm inp out vdd vss opamp
R1 in  inm valr1
R2 out inm valr2
R3 in  inp valr3
R4 inp 0   valr4
RL out 0   valrl
CL out 0   valcl
 
.PARAM half='psvoltage/2'
+ valr1=10k valr2=90k valr3=10k valr4=10k 
+ valrl=5k valcl=0.5n

.TRAN 10n 10m START='10m-1m'
.FOUR 1k V(out)

.endl tran2
