* DC simulation for bias current and power dissipation
* dc1.libの時と数値が大きく異なる時があるので個別で実装

.lib dc4
 
VIN	inp 0	dc 0
VDD	vdd 0	'step'
VSS	0 vss	'step'
 
X1	s inp out vdd vss	opamp
R1	s 0			valr1
R2	out s			valr2
 
.PARAM half='psvoltage/2' valr1=10k valr2=10k
.param vdcmin='-half' vdcmax='half' vdcstep='psvoltage/100' step=half
.DC VIN vdcmin vdcmax vdcstep
.MEAS DC ibd FIND I(VDD) AT=0 
.MEAS DC ibs FIND I(VSS) AT=0 
.MEAS DC ib_tt PARAM='max(abs(ibd),abs(ibs))'
.MEAS DC pdis_tt PARAM='ib_tt*psvoltage'

.endl dc4
